US07795282B2
Step F: Preparation of 2-(2-(2-(tert-butyldiphenylsilyloxy)ethyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine:
To a solution of 2-(2-(2-(tert-butyldiphenylsilyloxy)ethyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3 (2H)-yl)-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine (0.157 g, 0.225 mmol) in 5 mL DCE was added formaldehyde (0.067 mL, 37 wt % in water, 0.901 mmol) followed by sodium triacetoxyborohydride (0.052 g, 0.248 mmol). The resulting suspension was stirred vigorously at room temperature overnight, then treated with saturated Na2CO3 solution (30 mL) and stirred for 10 minutes. The mixture was extracted with EtOAc (3×30 mL) and the combined organic phases were washed with brine (20 mL), dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography (0-1% MeOH/DCM) to afford the desired product as a bright yellow foam, 0.119 g, 74%.

reactant | 2-(2-(2-(tert-butyldiphenylsilyloxy)ethyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3 (2H)-yl)-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine | 0.225 mmol, 0.157 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC1(SC(=NN1C=1SC=2CNCCC2N1)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C38H38F2N4OS2Si
reactant | formaldehyde | 0.901 mmol, 0.067 mL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.248 mmol, 0.052 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Na2CO3 | 30 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
product | 2-(2-(2-(tert-butyldiphenylsilyloxy)ethyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC1(SC(=NN1C=1SC=2CN(CCC2N1)C)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C39H40F2N4OS2Si
